US07220856B2
Preparation of 4-[4-(4-Benzyloxyphenylaminocarbonyl)piperazin-1-yl]-7-chloroquinoline
7-Chloro-4-(piperazin-1-yl)quinoline (62 mg, 0.25 mmol) and 4-benzyloxyphenyl isocyanate (68 mg, 0.30 mmol) in THF (10 mL) are reacted according to method C yielding the title product as a yellow solid after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.25 mmol, 62 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 4-benzyloxyphenyl isocyanate | 0.30 mmol, 68 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N=C=O | C14H11NO2
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[4-(4-Benzyloxyphenylaminocarbonyl)piperazin-1-yl]-7-chloroquinoline | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=CC=NC2=CC(=CC=C12)Cl | C27H25ClN4O2
